US06051712
In an analogous manner to that described in Example 22(i), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-(3-methoxycarbonyl-phenyl)-piperidine-1-carboxylate with 1-benzyloxy-3-chloromethyinaphthalene there was obtained tert-butyl (3RS,4RS)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(3-methoxycarbonyl-phenyl)-piperidine-1-carboxylate as a pale yellow amorphous powder; MS: 582 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(3-methoxycarbonyl-phenyl)-piperidine-1-carboxylate | OC1CN(CCC1C1=CC(=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C18H25NO5
reactant | 1-benzyloxy-3-chloromethyinaphthalene | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)CCl | C18H15ClO
product | tert-butyl (3RS,4RS)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(3-methoxycarbonyl-phenyl)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)COC1CN(CCC1C1=CC(=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C36H39NO6
